US05100895
5-Cyano-2,3-dihydrodiimidazo[1,5-a:1',2'-c]quinazoline
A mixture of 2,3-dihydrodiimidazo[1,5-a:1',2'-c]quinazoline-5-carboxamide (1 g, 4 mmol) (prepared by standard methods from the corresponding carboxylic acid ethyl ester, Compound 3) and phosphorus pentachloride (0.9 g, 4.1 mmol) in phosphorus oxychloride (10 ml) was stirred at reflux for 3 h, and then evaporated to dryness. The residue was partitioned between 25 ml of water and 25 ml of dichloromethane. The organic layer was extracted with 4×25 ml of 10% acetic acid. The combined aqueous phases were adjusted to pH around 11 and cooled to 0° C. The precipitate which had formed was filtered off and dried, giving the title compound as yellow crystals, m.p. 227°-240° C. (decomposition). Yield 0.53 g (57%). (Compound 49).

reactant | 2,3-dihydrodiimidazo[1,5-a:1',2'-c]quinazoline-5-carboxamide | 4 mmol, 1 g | N=1CCN2C=3N(C=4C=CC=CC4C21)C=NC3C(=O)N | C13H11N5O
reactant | phosphorus pentachloride | 4.1 mmol, 0.9 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-Cyano-2,3-dihydrodiimidazo[1,5-a:1',2'-c]quinazoline | C(#N)C=1N=CN2C1N1C(C=3C=CC=CC23)=NCC1 | C13H9N5
